US04107326
1-Amino-2-benzyl-3-ethylguanidine hydroiodide
A solution of 25.0 g. of methyl N-ethylthiocarbazimidate hydroiodide and 10.2 g. of benzylamine in 150 ml. of water is heated on a steam bath for one hour and then evaporated under reduced pressure. The residue is dissolved in ethanol, treated with activated charcoal, filtered and evaporated under reduced pressure. The residue is dissolved in methylene chloride and the solution is passed through hydrous sodium magnesium silicate and concentrated under reduced pressure, giving the desired product as a residual red oil.

reactant | methyl N-ethylthiocarbazimidate hydroiodide | I.C(C)N=C(NN)SC
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
solvent | water | O | H2O
product | 1-Amino-2-benzyl-3-ethylguanidine hydroiodide | I.NNC(=NCC1=CC=CC=C1)NCC | InChI=1S/C10H16N4.HI/c1-2-12-10(14-11)13-8-9-6-4-3-5-7-9;/h3-7H,2,8,11H2,1H3,(H2,12,13,14);1H
